US06005116
(a) 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-4-methyl-5-phenylisoxazole
3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-phenylisoxazole (0.30 g) was dissolved in tetrahydrofuran (10 ml), and a solution of n-butyllithium/n-hexane (1.56M, 1.4 ml) was added dropwise thereto at -70° C. under a nitrogen atmosphere, followed by stirring of the resulting mixture for 10 minutes. Then, methyl iodide (0.09 ml) was added dropwise to the reaction mixture, and the resulting mixture was stirred for 10 minutes. After the temperature of the reaction mixture was raised to 0° C., the reaction mixture was poured into ice-cold water, and an aqueous potassium dihydrogenphosphate solution was added to the mixture to adjust the pH to a value of 6. Then, the mixture was extracted with ethyl acetate and the organic layer was washed with a saturated aqueous NaCl solution, followed by drying over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=4/1) to obtain the title compound (0.29 g, 94%) as a colorless powder.

reactant | 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-phenylisoxazole | 0.30 g | C(C)(C)(C)OC(=O)NCCOC1=NOC(=C1)C1=CC=CC=C1 | C16H20N2O4
reactant | n-butyllithium n-hexane | 1.56M, 1.4 ml | C(CCC)[Li].CCCCCC
reactant | methyl iodide | 0.09 ml | CI | CH3I
reactant | potassium dihydrogenphosphate | P(=O)(O)(O)[O-].[K+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-4-methyl-5-phenylisoxazole | 0.29 g, 94% | C(C)(C)(C)OC(=O)NCCOC1=NOC(=C1C)C1=CC=CC=C1 | C17H22N2O4
